US09427475B2
Step A: benzyl 6-(bis(3-hydroxypropyl)amino)-6-oxohexanoate
To a solution of 3,3′-azanediylbis(propan-1-ol) (1000 mg, 7.51 mmol, 1.0 eq) was in DMF (10 ml), was added benzyl (2,5-dioxopyrrolidin-1-yl) adipate (2503 mg, 7.51 mmol, 1.0 eq) followed by TEA (1.046 ml, 7.51 mmol, 1.0 eq). The reaction was stirred at 25 deg for 18 hr. UPLC indicated formation of desired product. DMF was removed under reduced pressure. The crude was purified by C18 Reverse phase chromatograph (eluted with 0-40% ACN/water in 16 CV). Fractions containing desired product were combined and concentrated to give the titled compound as colorless oil (1.55 g, 4.41 mmol, 58.7%). UPLC Method B: m/e=352.2171 [M+1]; Rt=3.47 min. 1H NMR (CDCl3, 500 MHz) δ 7.3-7.5 (m, 5H), 5.15 (m, 2H), 3.65 (m, 2H), 3.40 (m, 5H), 2.66 (s, 3H), 2.45 (m, 3H), 2.29 (s, 1H), 1.84 (s, 1H), 1.70 (m, 7H).

reactant | 3,3′-azanediylbis(propan-1-ol) | 7.51 mmol, 1000 mg, 1.0 eq | N(CCCO)CCCO | C6H15NO2
reactant | benzyl (2,5-dioxopyrrolidin-1-yl) adipate | 7.51 mmol, 2503 mg, 1.0 eq | C(CCCCC(=O)ON1C(CCC1=O)=O)(=O)OCC1=CC=CC=C1 | C17H19NO6
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | benzyl 6-(bis(3-hydroxypropyl)amino)-6-oxohexanoate | OCCCN(C(CCCCC(=O)OCC1=CC=CC=C1)=O)CCCO | C19H29NO5
